US04846998
A solution of 17 g of 3-methylcyclohexanecarbonitrile in 140 ml of THF has added to it, at -78°, a lithium diisopropylamide solution (prepared from 140 ml of THF, 16 g of diisopropylamine and 100 ml of 1.6-molar butyllithium solution in hexane), followed, after 2 hours, by 25 g of diethyl carbonate, and stirring is continued for one hour. After heating to room temperature and pouring onto 300 ml of ice-water the mixture is neutralized with dilute hydrochloric acid. Customary working up and distillation gives ethyl 3-methyl-1-cyanocyclohexanecarboxylate.

reactant | 3-methylcyclohexanecarbonitrile | 17 g | CC1CC(CCC1)C#N | C8H13N
reactant | lithium diisopropylamide | 1.6-molar, 140 ml, 16 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | diethyl carbonate | 25 g | C(OCC)(OCC)=O | C5H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 140 ml | C1CCOC1 | C4H8O
product | ethyl 3-methyl-1-cyanocyclohexanecarboxylate | CC1CC(CCC1)(C(=O)OCC)C#N | C11H17NO2
